US04426391
Iodomethyl 3-methyl-1-butyl carbonate
Chloromethyl isopentyl carbonate (4.2 g) was dissolved in dry acetone (25 ml) and anhydrous sodium iodide (6.0 g) was added to it. The reaction mixture was stirred at room temperature protected from light for 6 hours. The acetone was evaporated off. The residue was taken in water (50 ml) and extracted with ether. The ether extract was washed successively with aqueous sodium bisulfite, water and brine and dried over sodium sulfate. Evaporation of ether gave a light-yellow oil of product weighing 6.1 g NMR (CDCl3)δ 0.96 (6H, d, J=5 Hz, (CH3)2), 1.63 (3H, m, CH2CH), 4.26 (2H, t, J=7 Hz, OCH2) and 5.96 (2H, s, CH2I).

reactant | Chloromethyl isopentyl carbonate | 4.2 g | C(OCCl)(OCCC(C)C)=O | C7H13ClO3
reactant | sodium iodide | 6.0 g | [I-].[Na+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | Iodomethyl 3-methyl-1-butyl carbonate | C(OCI)(OCCC(C)C)=O | C7H13IO3
